US07947692B2
A mixture of 1-[2-Methoxy-1-(3-trifluoromethyl-phenyl)-ethyl]-piperazine trifluoroacetate (160 mg, 0.40 mmol) and diisopropylethylamine (0.35 mL, 2.0 mmole) in acetonitrile (10 mL) was heated at 70° C. for ten minutes. After cooling to room temperature, (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-carbamic acid phenyl ester (120 mg, 0.40 mmol) was added to the above solution. The mixture was stirred at reflux for three hours. LCMS analysis indicated complete consumption of starting material. The reaction was concentrated and the crude was purified using reversed phase HPLC to give 4-[2-Methoxy-1-(3-trifluoromethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide (81 mg, 41% yield) as a white powder. LRMS for C21H23F3N6O3S (M+H)+ at m/z=497. The NMR spectrum obtained on the sample is compatible with its structure.

reactant | 1-[2-Methoxy-1-(3-trifluoromethyl-phenyl)-ethyl]-piperazine trifluoroacetate | 0.40 mmol, 160 mg | FC(C(=O)O)(F)F.COCC(C1=CC(=CC=C1)C(F)(F)F)N1CCNCC1
reactant | diisopropylethylamine | 2.0 mmole, 0.35 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-carbamic acid phenyl ester | 0.40 mmol, 120 mg | C1(=CC=CC=C1)OC(NC=1SC=2N=CN=C(C2N1)OC)=O | C13H10N4O3S
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-[2-Methoxy-1-(3-trifluoromethyl-phenyl)-ethyl]-piperazine-1-carboxylic acid (7-methoxy-thiazolo[5,4-d]pyrimidin-2-yl)-amide | 81 mg, 41% yield | COC=1C2=C(N=CN1)SC(=N2)NC(=O)N2CCN(CC2)C(COC)C2=CC(=CC=C2)C(F)(F)F | C21H23F3N6O3S
